US04006145
570.7 g of 3-methyl-6-(phenylthio)-benzyl alcohol are dissolved in 1.5 litres of benzene and heated under reflux. There are added dropwise thereto within 45 minutes 352 ml of thionyl chloride and the mixture is boiled for a further 90 minutes. Then the mixture is concentrated under reduced pressure and there is obtained 3-methyl-6-(phenylthio)-benzyl chloride as a red-brown oil. 194 g of potassium cyanide in 250 ml of water are heated under reflux for 17 hours under an argon atmosphere with 616.9 g of 3-methyl-6-(phenylthio)-benzyl chloride in 900 ml of ethanol. Then the ethanol is distilled off under reduced pressure, the residue then diluted with water and extracted with ether. The extracts are washed with water, dried over sodium sulphate and evaporated. There is obtained 3-methyl-6-(phenylthio)-phenylacetonitrile as an oil.

reactant | 3-methyl-6-(phenylthio)-benzyl alcohol | 570.7 g | CC=1C=C(CO)C(=CC1)SC1=CC=CC=C1 | C14H14OS
reactant | thionyl chloride | 352 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 1.5 litres | C1=CC=CC=C1 | C6H6
product | 3-methyl-6-(phenylthio)-benzyl chloride | CC=1C=C(CCl)C(=CC1)SC1=CC=CC=C1 | C14H13ClS
